US07148226B2
Preparation of compound (4-Bromo-2-fluoro-phenyl)-acetic acid methyl ester
MeOH (16 mmol, 0.81 ml), TMSCI (20 mmol, 2.13 g) and (4-bromo-2-fluorophenyl) acetonitrile (10 mmol, 2.13 g) were sequentially added to a dry flask under a nitrogen atmosphere at room temperature. The reaction mixture was heated at 50° C. for 4 hours. After being cooled to room temperature, water (20 mmol, 0.36 ml) was added to the mixture, followed by the addition of Na2CO3 (10 mmol, 1.06 g) and CH2Cl2 (10 ml). Drying over MgSO4 and concentrating at low pressure afforded product (0.85 g, 35% yield). 1H NMR (300 MHz, CDCl3) δ: 3.57 (s, 2 H), 3.65 (s, 3H), 7.08 (t, J=8.3 Hz, 1H), 7.16–7.21 (m, 2H).

reactant | MeOH | 16 mmol, 0.81 ml | CO | CH4O
reactant | (4-bromo-2-fluorophenyl) acetonitrile | 10 mmol, 2.13 g | BrC1=CC(=C(C=C1)CC#N)F | C8H5BrFN
reactant | water | 20 mmol, 0.36 ml | O | H2O
reactant | Na2CO3 | 10 mmol, 1.06 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (4-Bromo-2-fluoro-phenyl)-acetic acid methyl ester | 0.85 g, 35% yield | COC(CC1=C(C=C(C=C1)Br)F)=O | C9H8BrFO2
